US07273868B2
A mixture of 4-(3-chloro-4-methoxybenzylamino)-5-carboxy-6-chloro-2-methylthiopyrimidine 500 mg and thionyl chloride 2 ml is refluxed for 10 minutes. After reaction thionyl chloride is removed and the solvent is removed in azeotrope with methylene chloride to give 4-(3-chloro-4-methoxybenzylamino)-5-chloroformyl-6-chloro-2-methylthiopyrimidine.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-carboxy-6-chloro-2-methylthiopyrimidine | 500 mg | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)O)Cl)SC)C=CC1OC | C14H13Cl2N3O3S
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-(3-chloro-4-methoxybenzylamino)-5-chloroformyl-6-chloro-2-methylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)Cl)Cl)SC)C=CC1OC | C14H12Cl3N3O2S
